US06894170B2
2nd stage: Methylation to give 4-carbethoxy-4-methyl-2-phenylthiazoline
152.2 g (0.594 mol, 1.10 eq) of butyllithium solution (25% strength in heptane) were added dropwise under nitrogen in the course of 30 min to a solution of 90.8 ml (65.6 g, 0.648 mol, 1.20 eq) of diisopropylamine in 800 ml of absolute MTBE at −15° C. This solution was stirred at −15° C. for 30 min. 400 ml of the MTBE solution containing the 4-carbethoxy-2-phenyl-thiazoline were added dropwise at −15° C. in the course of 30 min and the mixture was stirred at −15° C. for 1 h, whereby a brown solution resulted. 115.0 g (50.4 ml, 0.81 mol, 1.50 eq) of methyl iodide were added and the reaction mixture was warmed to 23° C. and stirred at this temperature for a further 3 h. 300 ml of 2 M HCl were then slowly added with vigorous stirring, then the mixture was adjusted to pH 2-3 so that the temperature did not exceed 30° C. The two-phase mixture obtained thereby was stirred for a further 30 min. The organic phase was then separated off. This MTBE solution, containing 4-carbethoxy-4-methyl-2-phenylthiazoline, was employed in stage 3.

reactant | butyllithium | 0.594 mol, 152.2 g, 1.10 eq | C(CCC)[Li]
reactant | diisopropylamine | 0.648 mol, 90.8 ml, 65.6 g, 1.20 eq | C(C)(C)NC(C)C | C6H15N
reactant | 4-carbethoxy-2-phenyl-thiazoline | C(=O)(OCC)C1N=C(SC1)C1=CC=CC=C1 | C12H13NO2S
reactant | methyl iodide | 0.81 mol, 50.4 ml, 115.0 g, 1.50 eq | CI | CH3I
reactant | HCl | 2 M, 300 ml | Cl | ClH
solvent | MTBE | 800 ml | CC(C)(C)OC | C5H12O
solvent | MTBE | 400 ml | CC(C)(C)OC | C5H12O
product | 4-carbethoxy-4-methyl-2-phenylthiazoline | C(=O)(OCC)C1(N=C(SC1)C1=CC=CC=C1)C | C13H15NO2S
